US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)-4-[N-[[2-(4-fluorophenyl)pyridin-4-yl]methyl]-N-(4-methoxyphenyl)amino]piperidine
4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine (306 mg) and 4-chloromethyl-2-(4-fluorophenyl)pyridine (222 mg) were condensed in the same manner as described in Example 9 to give the title compound.

reactant | 4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine | 306 mg | COC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | 4-chloromethyl-2-(4-fluorophenyl)pyridine | 222 mg | ClCC1=CC(=NC=C1)C1=CC=C(C=C1)F | C12H9ClFN
product | 1-(tert-Butoxycarbonyl)-4-[N-[[2-(4-fluorophenyl)pyridin-4-yl]methyl]-N-(4-methoxyphenyl)amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=CC=C(C=C1)OC)CC1=CC(=NC=C1)C1=CC=C(C=C1)F | C29H34FN3O3
